### PR TITLE
add `compProd_apply_toReal`

### PR DESCRIPTION
**Pull request by LorenzoLuccioli**
add `compProd_apply_toReal` and `compProd_univ_toReal`

### CODE REVIEW

File: TestingLowerBounds/MeasureCompProd.lean [hunk 1]
```diff
@@ -281,4 +281,19 @@ lemma compProd_const {ν : Measure β} [SFinite ν] [SFinite μ] :
   rw [Measure.compProd_apply hs, Measure.prod_apply hs]
   simp_rw [kernel.const_apply]
 
+lemma compProd_apply_toReal [SFinite μ] [IsFiniteKernel κ]
+    {s : Set (α × β)} (hs : MeasurableSet s) :
+    ((μ ⊗ₘ κ) s).toReal = ∫ x, ((κ x) (Prod.mk x ⁻¹' s)).toReal ∂μ := by
+  rw [Measure.compProd_apply hs, ]
+  rw [integral_eq_lintegral_of_nonneg_ae]
```
Comment (RemyDegenne) [inline TestingLowerBounds/MeasureCompProd.lean]:
```suggestion
  rw [Measure.compProd_apply hs, integral_eq_lintegral_of_nonneg_ae]
```

File: TestingLowerBounds/MeasureCompProd.lean [hunk 2]
```diff
@@ -281,4 +281,19 @@ lemma compProd_const {ν : Measure β} [SFinite ν] [SFinite μ] :
   rw [Measure.compProd_apply hs, Measure.prod_apply hs]
   simp_rw [kernel.const_apply]
 
+lemma compProd_apply_toReal [SFinite μ] [IsFiniteKernel κ]
+    {s : Set (α × β)} (hs : MeasurableSet s) :
+    ((μ ⊗ₘ κ) s).toReal = ∫ x, ((κ x) (Prod.mk x ⁻¹' s)).toReal ∂μ := by
```
Comment (RemyDegenne) [inline TestingLowerBounds/MeasureCompProd.lean]:
```suggestion
    ((μ ⊗ₘ κ) s).toReal = ∫ x, (κ x (Prod.mk x ⁻¹' s)).toReal ∂μ := by
```

**Review by RemyDegenne — APPROVED** [review]
